US04713383
A solution of 9-chloro-5-thiocyanato-2-(2-furyl)[1,2,4]triazolo-[1,5-c]quinazoline (2 g) in 1,3-dimethylimidazolidone (28 ml) is added to tert-butylamine (2 ml). The mixture is stirred for 3 hours under nitrogen, and then is diluted with ethanol (20 ml), and treated with water (20 ml). The resulting precipitate is collected, recrystallized from 2-methoxyethanol, and dried in high vacuum to afford pure 5-tert-butylamino-9-chloro-2-(2-furyl)-[1,2,4]triazolo-[1,5-c]quinazoline, mp above 330° C.

reactant | 9-chloro-5-thiocyanato-2-(2-furyl)[1,2,4]triazolo-[1,5-c]quinazoline | 2 g | ClC1=CC=2C=3N(C(=NC2C=C1)SC#N)N=C(N3)C=3OC=CC3 | C14H6ClN5OS
reactant | tert-butylamine | 2 ml | C(C)(C)(C)N | C4H11N
reactant | water | 20 ml | O | H2O
solvent | 1,3-dimethylimidazolidone | 28 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-tert-butylamino-9-chloro-2-(2-furyl)-[1,2,4]triazolo-[1,5-c]quinazoline | C(C)(C)(C)NC1=NC=2C=CC(=CC2C=2N1N=C(N2)C=2OC=CC2)Cl | C17H16ClN5O
